US08217177B2
5-chloro-2,3-difluoropyridine (0.069 ml, 0.67 mmol), X-Phos (0.045 g, 0.094 mmol) and palladium (II) acetate (0.011 g, 0.047 mmol) were combined in 1,4-dioxane (0.2 M, 3.4 mL). To the reaction vessel was added 3-methyl-5-(trimethylstannyl)isothiazole (0.53 g, 2.0 mmol) and, after purging with argon, the reaction was stirred at 100° C. for 2 h and then concentrated in vacuo. The crude material was dissolved in minimal DCM and purified via MPLC (eluting first with 100% EtOAc followed by 20% EtOAc in hexanes-isocratic) to yield 2,3-difluoro-5-(3-methylisothiazol-5-yl)pyridine (0.139 g, 98% yield) as a yellow solid. 2,3-difluoro-5-(3-methylisothiazol-5-yl)pyridine was converted to the title compound using a procedure similar to 1-(4-methyl-6-phenylpyridazin-3-yl)hydrazine.

reactant | 5-chloro-2,3-difluoropyridine | 0.67 mmol, 0.069 ml | ClC=1C=C(C(=NC1)F)F | C5H2ClF2N
reactant | X-Phos | 0.094 mmol, 0.045 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 3-methyl-5-(trimethylstannyl)isothiazole | 2.0 mmol, 0.53 g | CC1=NSC(=C1)[Sn](C)(C)C
solvent | 1,4-dioxane | 0.2 M, 3.4 mL | O1CCOCC1 | C4H8O2
catalyst | palladium (II) acetate | 0.047 mmol, 0.011 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,3-difluoro-5-(3-methylisothiazol-5-yl)pyridine | 0.139 g, 98% yield | FC1=NC=C(C=C1F)C1=CC(=NS1)C | C9H6F2N2S
